US08048909B2
[2,4-Dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol
Using ethyl 2,4-dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (1.01 g) and a 1.5 mol/L solution (6.0 mL) of diisobutylaluminum hydride in toluene, a procedure as in Reference Example 5 was performed to give the title compound as a brown oil (yield 0.84 g, 94%).

reactant | ethyl 2,4-dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 1.01 g | CC=1N(C(=C(C1C(=O)OCC)C)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C21H21NO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [2,4-Dimethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methanol | yield 0.84 g, 94% | CC=1N(C(=C(C1CO)C)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C19H19NO3S
